US04064239
100 Mg. of the 2-amino-4-(1,1-dichloroprop-1-en-2-yl)benzenesulfonamide and 1.0 ml. of chlorosulfonic acid is mixed at 5° to 10° C. and then immersed into an oil bath of 100° to 110° for 1 hour. The reaction mixture is cooled in ice, added onto ice, extracted into CH2Cl2, the solution is washed twice with water, dried and concentrated in vacuo to yield 75 mg. of crude 4-amino-6-(1,1-dichloroprop-1-en-2-yl)-1,3-benzenedisulfonylchloride, identified by nuclear magnetic resonance and mass spectral analyses. 100 Mg. of this disulfonylchloride is then dissolved in 4 ml. of tertbutanol and ammonia gas is bubbled into the solution for about 10 minutes at room temperature. It is kept at room temperature for 15 minutes and then concentrated in vacuo. The residue is dissolved in ethyl acetate, washed with dilute aqueous HCl, water, dried and concentrated in vacuo to 87 mg. of crude product which slowly crystallized. It is recrystallized from a methanol-benzene-methylene-chloride mixture to give 4-amino-6-(1,1-dichloroprop-1-ene-2-yl)-1,3-benzenedisulfonamide with m.p. 199° to 202° C.

reactant | 2-amino-4-(1,1-dichloroprop-1-en-2-yl)benzenesulfonamide | NC1=C(C=CC(=C1)C(=C(Cl)Cl)C)S(=O)(=O)N | C9H10Cl2N2O2S
reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
reactant | 4-amino-6-(1,1-dichloroprop-1-en-2-yl)-1,3-benzenedisulfonylchloride | NC1=C(C=C(C(=C1)C(=C(Cl)Cl)C)S(=O)(=O)Cl)S(=O)(=O)Cl | C9H7Cl4NO4S2
product | 4-amino-6-(1,1-dichloroprop-1-ene-2-yl)-1,3-benzenedisulfonamide | NC1=C(C=C(C(=C1)C(=C(Cl)Cl)C)S(=O)(=O)N)S(=O)(=O)N | C9H11Cl2N3O4S2
